US04831041
A solution of methyl chloroformate (0.416 g) in methylene chloride (1 ml) was added dropwise to a solution of 2-amino-6-methylbenzyl alcohol (0.549 g) and pyridine (0.364 g) in methylene chloride (10 ml) with ice cooling. After being stirred for 1 hour, the mixture was poured into 1N hydrochloric acid and extracted with methylene chloride. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The crystalline residue was washed with n-hexane and dried to give 2-methoxycarbonylamino-6-methylbenzyl alcohol (0.64 g).

reactant | methyl chloroformate | 0.416 g | ClC(=O)OC | C2H3ClO2
reactant | 2-amino-6-methylbenzyl alcohol | 0.549 g | NC1=C(CO)C(=CC=C1)C | C8H11NO
reactant | pyridine | 0.364 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxycarbonylamino-6-methylbenzyl alcohol | 0.64 g | COC(=O)NC1=C(CO)C(=CC=C1)C | C10H13NO3
